US04285884
A mixture of 12.4 g (0.075 mol) of DL-phenyl alanine, 15.5 g (0.086 mol) of l-N-methyl ephedrine, 10.5 g (0.086 mol) of salicyl aldehyde and 135 ml of methanol was stirred at room temperature for about 2 hours until dissolution was complete. The solvent was removed under reduced pressure and the oily residue taken up in 170 ml of ethyl acetate. The clear solution was seeded with a crystal of the salt of l-N-methyl ephedrine and N-salicyliden-D-phenyl alanine, whereupon a yellow crystal magma formed after a short stirring at room temperature. The crystals were filtered off immediately and washed with a small amount of ethyl acetate. After drying at 50° C., 6.7 g (40% of the theory) of the salt of l-N-methyl ephedrine and N-salicyliden-D-phenyl alanine having a specific rotation of [α]D20 of +107.4° were obtained.

reactant | DL-phenyl alanine | 0.075 mol, 12.4 g | NC(CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | methanol | 135 ml | CO | CH4O
product | N-salicyliden-D-phenyl alanine | C(C=1C(O)=CC=CC1)=N[C@H](CC1=CC=CC=C1)C(=O)O | C16H15NO3
